US05001123
2-bromo-5.6-dimethoxypyrazine
A solution of 14.6 gm of N-bromosuccinamide, 32 ml of dry DMF was added to a stirred solution of 11 gm (0.078 mol) of 2,3-dimethoxypyrazine in 14 ml of DMF at 0° C. whereupon the reaction was warmed to 25° C. and stirred for 16 hours. The reaction mixture was then cooled in an ice bath and to it was added aqueous Na2SO3 to remove the bromine and this was poured into ice water. The resulting crystalline solid was filtered, triturated with water and dried to give 10.48 gm of the title compound. NMR (CDCl3)δ4.0, 4.02(2s, 6H, OCH3), 7.70(s,1H).

reactant | N-bromosuccinamide | 14.6 gm | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | 2,3-dimethoxypyrazine | 0.078 mol, 11 gm | COC1=NC=CN=C1OC | C6H8N2O2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
solvent | DMF | 32 ml | CN(C)C=O | C3H7NO
product | 2-bromo-5.6-dimethoxypyrazine | 10.48 gm | BrC1=NC(=C(N=C1)OC)OC | C6H7BrN2O2
